US06326382B1
a) 4-[2-[1-Isoquinolyl]ethyl]-1-piperidinecarboxylic acid, 1-(1,1-dimethylethyl) ester
The procedure described in Example 7a was followed using 1-methyl isoquinoline (0.50 g, 3.49 mmol), 1M LDA (4.2 mL, 4.2 mmol), and 4-iodomethyl-1-piperidinecarboxylic acid, 1-(1,1-dimethylethyl) ester (1.2 g, 3.84 mmol) in dry THF (45 mL) except that after addition of the reagents, the mixture was stirred at −78° C. for 1.75 hours. Purification by chromatography (30% EtOAc/toluene) gave the title compound (0.784 g, 66%) as a yellow oil.

reactant | 1-methyl isoquinoline | 3.49 mmol, 0.50 g | CC1=NC=CC2=CC=CC=C12 | C10H9N
reactant | LDA | 4.2 mmol, 1M, 4.2 mL | [Li+].CC(C)[N-]C(C)C
reactant | 4-iodomethyl-1-piperidinecarboxylic acid, 1-(1,1-dimethylethyl) ester | 3.84 mmol, 1.2 g | ICC1CCN(CC1)C(=O)OC(C)(C)C | C11H20INO2
solvent | THF | 45 mL | C1CCOC1 | C4H8O
product | 4-[2-[1-Isoquinolyl]ethyl]-1-piperidinecarboxylic acid, 1-(1,1-dimethylethyl) ester | 0.784 g, 66% | C1(=NC=CC2=CC=CC=C12)CCC1CCN(CC1)C(=O)OC(C)(C)C | C21H28N2O2
